US05618839
Methyl 4-[1,1-dimethyl-3-(trifluoromethanesulfonyloxy)-1H-indene-5-yloxymethyl]benzoate
To a solution of methyl 4-(1,1-dimethyl-3-oxo-indan-5-yloxymethyl)benzoate (675 mg, 2.08 mmol) and 2,6-di-tert-butyl-4-methylpyridine (534 mg, 2.60 mmol) in 5 mL of methylene chloride was added triflic acid anhydride (705 mg, 2.50 mmol) at -78° C. After being stirred at room temperature for 16 hours, the mixture was diluted with 1N HCl (20 mL), extracted with ethyl ether (20 mL×3). The combined extracts were dried over magnesium sulfate and evaporated. The residue was purified by flash chromatography (EtOAc:hexane=1:20 to 1:10) to give 849 mg (95% yield) of the title compound as a solid; 1H-NMR (CDCl3) δ1.37 (s, 6H), 3.93 (s, 1H), 5.15 (s, 2H), 6.24 (s, 1H), 6.90-6.94 (m, 2H), 7.25 (d over CHCl3, J=8.8 Hz, 1H), 7.53 (d, J=8.7 Hz, 2H), 8.08 (d, J=8.7 Hz, 2H); MS m/e 457 (MH+).

reactant | methyl 4-(1,1-dimethyl-3-oxo-indan-5-yloxymethyl)benzoate | 2.08 mmol, 675 mg | CC(C)(C1=CC=C(C(=O)OC)C=C1)OC=1C=C2C(CCC2=CC1)=O | C20H20O4
reactant | 2,6-di-tert-butyl-4-methylpyridine | 2.60 mmol, 534 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | triflic acid anhydride | 2.50 mmol, 705 mg | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 1N, 20 mL | Cl | ClH
product | Methyl 4-[1,1-dimethyl-3-(trifluoromethanesulfonyloxy)-1H-indene-5-yloxymethyl]benzoate | 849 mg, 95% yield | CC(C)(C1=CC=C(C(=O)OC)C=C1)OC=1C=C2C(=CCC2=CC1)OS(=O)(=O)C(F)(F)F | C21H19F3O6S
